US06020340
N. 2-Cyclopentyl-7-methoxybenzofuran-4-carbonitrile
27.6 g of 2-cyclopentyl-7-methoxybenzofuran-4-carbaldehyde are heated to reflux for 1.5 h with 11.6 g of hydroxylamine and 19.7 g of sodium formate in 250 ml of formic acid. The cooled solution is stirred in about 1.5 l of a 1:1 mixture of ice water and ethyl acetate, and the organic phase is separated off, dried over ignited potassium carbonate and evaporated in vacuo. The residual oil is sufficiently pure for further processing.

reactant | 2-cyclopentyl-7-methoxybenzofuran-4-carbaldehyde | 27.6 g | C1(CCCC1)C=1OC=2C(C1)=C(C=CC2OC)C=O | C15H16O3
reactant | hydroxylamine | 11.6 g | NO | H3NO
reactant | sodium formate | 19.7 g | C(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 250 ml | C(=O)O | CH2O2
product | 2-Cyclopentyl-7-methoxybenzofuran-4-carbonitrile | C1(CCCC1)C=1OC=2C(C1)=C(C=CC2OC)C#N | C15H15NO2
